US07795236B2
To a mixture of tert-butyl N-(4-bromobenzyl)carbamate (0.14 g), 2-(furan-3-yl)-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane (0.12 g), potassium carbonate (0.1 g), water (0.2 mL) and N,N-dimethylformamide (1 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.03 g), and the resulting mixture was stirred at 80° C. for 12 hours. The reaction mixture was cooled to room temperature and then the insoluble material was filtered out. The filtrate was partitioned between ethyl acetate (110 mL) and water (50 mL). The organic layer was washed successively with water (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent: hexane/ethyl acetate=1/1) to give tert-butyl N-[4-(furan-3-yl)benzyl]-carbamate. The compound obtained was dissolved in dichloromethane (5 mL), trifluoroacetic acid (0.57 mL) was added dropwise, and the resulting mixture was stirred at room temperature for 2 hours. Saturated aqueous sodium hydrogen carbonate (15 mL) was added dropwise and the whole was extracted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate/brine (1/1, 10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.06 g).

reactant | tert-butyl N-(4-bromobenzyl)carbamate | 0.14 g | BrC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H16BrNO2
reactant | 2-(furan-3-yl)-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 0.12 g | O1C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C10H15BO3
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | tert-butyl N-[4-(furan-3-yl)benzyl]-carbamate | O1C=C(C=C1)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C16H19NO3
